US07951815B2
1,3-(S)-dibenzyl-8-(2-ethylbutyryl)-1,4,8-triazaspiro[4,5]decan-2-one (654 mg, 1.5 mmol) was dissolved in ethyl methyl ketone (5 mL), and water (15 μL) and TMSCl (210 μL) were added and the mixture was stirred overnight. Hexane (10 mL) was then added. The precipitated solid matter was isolated by filtration and dried in vacuo. The product 1,3-(S)-dibenzyl-8-(2-ethylbutyryl)-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride was obtained in a yield of 671 mg (95%).

reactant | 1,3-(S)-dibenzyl-8-(2-ethylbutyryl)-1,4,8-triazaspiro[4,5]decan-2-one | 1.5 mmol, 654 mg | C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(C(CC)CC)=O)CC2=CC=CC=C2)=O | C27H35N3O2
reactant | water | 15 μL | O | H2O
reactant | TMSCl | 210 μL | C[Si](C)(C)Cl | C3H9ClSi
reactant | Hexane | 10 mL | CCCCCC | C6H14
solvent | ethyl methyl ketone | 5 mL | CC(=O)CC | C4H8O
product | 1,3-(S)-dibenzyl-8-(2-ethylbutyryl)-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride | Cl.C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(C(CC)CC)=O)CC2=CC=CC=C2)=O | InChI=1S/C27H35N3O2.ClH/c1-3-23(4-2)25(31)29-17-15-27(16-18-29)28-24(19-21-11-7-5-8-12-21)26(32)30(27)20-22-13-9-6-10-14-22;/h5-14,23-24,28H,3-4,15-20H2,1-2H3;1H/t24-;/m0./s1
